US09055743B2
Under argon, 6.22 g (23.8 mmol) of triphenyl trithioorthoformate (1,1′,1″-(methanetriyltrisulphanediyl)dibenzene) are dissolved in anhydrous dichloromethane and cooled to −70° C. 23.8 ml (23.8 mmol) of tin(IV) tetrachloride solution (1 M in dichloromethane) and 5.73 g (26.3 mmol) of (3,4-dihydronaphthalen-1-yloxy)trimethylsilane are added in succession, and the mixture is stirred at −70° C. for 40 min. The reaction mixture is poured into ice-water and extracted with dichloromethane. After washing with water, the organic phase is dried over sodium sulphate and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate) gives 5.80 g of 2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-one.

reactant | triphenyl trithioorthoformate | 23.8 mmol, 6.22 g | C(SC1=CC=CC=C1)(SC1=CC=CC=C1)SC1=CC=CC=C1 | C19H16S3
reactant | tin(IV) tetrachloride | 23.8 mmol, 1 M, 23.8 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | (3,4-dihydronaphthalen-1-yloxy)trimethylsilane | 26.3 mmol, 5.73 g | C1(=CCCC2=CC=CC=C12)O[Si](C)(C)C | C13H18OSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[bis(phenylsulphanyl)methyl]-3,4-dihydronaphthalen-1(2H)-one | 5.80 g | C1(=CC=CC=C1)SC(C1C(C2=CC=CC=C2CC1)=O)SC1=CC=CC=C1 | C23H20OS2
